US04748179
A. 5-isopropoxy-3-ethoxycarbonyl-4-methyl-1,2,3,4-tetrahydro-β-carboline-1-carboxylic acid
To a stirred solution of 27.25 g 2-amino-3(4-isopropoxyindole-3-yl)butanoic acid ethylester in 70 ml ethylacetate was added 9.99 g glyoxylic acid hydrate dissolved in 70 ml water. The mixture was adjusted to pH 4 (10% K2CO3 -solution) and further stirred at room temperature for 6 hours. The yellow precipitate was collected by filtration, washed with ethylacetate and dried.

reactant | 2-amino-3(4-isopropoxyindole-3-yl)butanoic acid ethylester | 27.25 g | C(C)OC(C(C(C)C1=CNC2=CC=CC(=C12)OC(C)C)N)=O | C17H24N2O3
reactant | glyoxylic acid hydrate | 9.99 g | O.C(C=O)(=O)O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | ethylacetate | 70 ml | C(C)OC(C)=O | C4H8O2
solvent | water | 70 ml | O | H2O
product | 5-isopropoxy-3-ethoxycarbonyl-4-methyl-1,2,3,4-tetrahydro-β-carboline-1-carboxylic acid | C(C)(C)OC1=C2C=3C(C(NC(C3NC2=CC=C1)C(=O)O)C(=O)OCC)C | C19H24N2O5
